US07368578B2
To a mixture of ethyl (4-{4-[(2-methoxy-4-{[(4-{(E)-2-[5-methyl-2-(morpholin-4-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (0.43 g), tetrahydrofuran (12 mL) and ethanol (3 mL) was added 1N aqueous sodium hydroxide solution (1.5 mL), and the mixture was stirred at 50° C. for 2 hrs. To the reaction mixture were added 1N hydrochloric acid (1.5 mL) and water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give [4-(4-{[2-methoxy-4-({[4-{(E)-2-[5-methyl-2-(morpholin-4-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-yl]oxy}methyl)phenoxy]methyl)-5-methyl-1,3-oxazol-2-yl}phenyl]acetic acid as crystals (0.22 g, yield 53%). Recrystallization from tetrahydrofuran-hexane gave orange prism crystals. melting point: 171-173° C.

reactant | ethyl (4-{4-[(2-methoxy-4-{[(4-{(E)-2-[5-methyl-2-(morpholin-4-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 0.43 g | COC1=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=CC(=C1)COC1=NN(C=C1\C=C\C=1N=C(SC1C)N1CCOCC1)C1=CC=CC=C1 | C42H43N5O7S
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.5 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | [4-(4-{[2-methoxy-4-({[4-{(E)-2-[5-methyl-2-(morpholin-4-yl)-1,3-thiazol-4-yl]ethenyl}-1-phenyl-1H-pyrazol-3-yl]oxy}methyl)phenoxy]methyl)-5-methyl-1,3-oxazol-2-yl}phenyl]acetic acid | 0.22 g, yield 53% | COC1=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)O)C=CC(=C1)COC1=NN(C=C1\C=C\C=1N=C(SC1C)N1CCOCC1)C1=CC=CC=C1 | C40H39N5O7S
